US05616712
N-3,3-Dimethylacryloyl-3-bromoaniline (Compound 17)
To a suspension of NaH (4.15 g, 173 mmol, 60% in oil) in 50 ml of THF was cannulated a solution of 20.322 g (118 mmol) of 3-bromoaniline in 50 ml of THF. The resulting mixture was stirred at 0° C. for 45 min and warmed to room temperature over a period of 15 min. To this solution was added through cannulation 13.123 g (173 mmol) of 3,3-dimethylacryloyl chloride. The mixture was stirred at room temperature for 24 h and thereafter slowly poured into ice water. The resulting mixture was extracted with methylene chloride (twice), dried over MgSO4 and concentrated to yield a solid. The solid was purified by recrystallization in hexane/EtOAc (2:1) to give the title compound as a light brown solid.

reactant | NaH | 173 mmol, 4.15 g | [H-].[Na+]
reactant | 3-bromoaniline | 118 mmol, 20.322 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 3,3-dimethylacryloyl chloride | CC(=CC(=O)Cl)C | C5H7ClO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-3,3-Dimethylacryloyl-3-bromoaniline | CC(=CC(=O)NC1=CC(=CC=C1)Br)C | C11H12BrNO
